US05493044
Preparation of 2-(t-Butyldimethylsilyloxy)-octane Lot 8612, 461-95
Analysis of this material by GC indicated it was 96.9% assay product. addition, the stripped solution contained 1.1% cyclohexane, 0.04% t-butyldimethylsilyl chloride, 0.3% 2-octanol, and 1.7% unknowns.

reactant | t-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 2-octanol | CC(CCCCCC)O | C8H18O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-(t-Butyldimethylsilyloxy)-octane | [Si](C)(C)(C(C)(C)C)OC(C)CCCCCC | C14H32OSi
